### ISSUE TITLE
with_unfolding_all の使用例

### ISSUE THREAD

**Issue by Seasawher** [lean-ja/lean-by-example#757]
Zulip: [`decide` that can see through `irreducible`](https://leanprover.zulipchat.com/#narrow/stream/217875-Is-there-code-for-X.3F/topic/.60decide.60.20that.20can.20see.20through.20.60irreducible.60)

```lean
import Mathlib.Algebra.Group.Nat

structure A where
  n : ℕ
  deriving DecidableEq

instance : LE A where le x y := x.n ≤ y.n

instance : DecidableRel (@LE.le A _) := by
  intro x y
  exact x.n.decLe y.n

@[irreducible] def sqr (x : A) : A := ⟨x.n ^ 2⟩

example : sqr (⟨3⟩ : A) ≤ ⟨9⟩ := by native_decide  -- Works, but is native_decide
example : sqr (⟨3⟩ : A) ≤ ⟨9⟩ := by decide  -- Fails
example : sqr (⟨3⟩ : A) ≤ ⟨9⟩ := by rfl  -- Fails

-- Answer

example : sqr (⟨3⟩ : A) ≤ ⟨9⟩ := by with_unfolding_all decide
```
